US07601856B2
Following the procedure of Example 1, 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (0.20 g, 0.92 mmol), phenylacetyl chloride (0.14 mL, 1.0 mmol), and poly(vinylpyridine) (0.5 g) in dichloroethane (12 mL) provided N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)-2-phenylacetamide (0.25 g). MS (ESI) m/z 334.3 ([M+H]+).

reactant | 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine | 0.92 mmol, 0.20 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)N | C14H17NO
reactant | phenylacetyl chloride | 1.0 mmol, 0.14 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | dichloroethane | 12 mL | ClC(C)Cl | C2H4Cl2
product | N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)-2-phenylacetamide | 0.25 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)NC(CC3=CC=CC=C3)=O | C22H23NO2
